US05753664
3,5-Dimethyl-2-[4-[4-[2-[N-[2-(2-pyridyl)ethyl]-N-methylamino]ethoxy]benzoyl]benzylthio]-4(3H)-quinazolinone dihydrochloride
A solution of 2-[4-[4-(2-chloroethoxy)benzoyl]-benzylthio]-3,5-dimethyl-4(3H)-quinazolinone (381 mg), 2-(2-methylaminoethyl)pyridine (0.17 ml) and triethylamine (0.33 ml) in DMF (7 ml) was stirred at 100° C. for 21 hours. This reaction mixture was concentrated and the residue was purified by silica gel column chromatography (dichloromethane: methanol: aqueous ammonia =9:1:0.1) and treated with hydrogen chloride/ethyl acetate to provide the title compound as colorless solid (256 mg).

reactant | 2-[4-[4-(2-chloroethoxy)benzoyl]-benzylthio]-3,5-dimethyl-4(3H)-quinazolinone | 381 mg | ClCCOC1=CC=C(C(=O)C2=CC=C(CSC3=NC4=CC=CC(=C4C(N3C)=O)C)C=C2)C=C1 | C26H23ClN2O3S
reactant | 2-(2-methylaminoethyl)pyridine | 0.17 ml | CNCCC1=NC=CC=C1 | C8H12N2
reactant | triethylamine | 0.33 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 3,5-Dimethyl-2-[4-[4-[2-[N-[2-(2-pyridyl)ethyl]-N-methylamino]ethoxy]benzoyl]benzylthio]-4(3H)-quinazolinone dihydrochloride | 256 mg | Cl.Cl.CN1C(=NC2=CC=CC(=C2C1=O)C)SCC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCCN(C)CCC1=NC=CC=C1)=O | InChI=1S/C34H34N4O3S.2ClH/c1-24-7-6-9-30-31(24)33(40)38(3)34(36-30)42-23-25-10-12-26(13-11-25)32(39)27-14-16-29(17-15-27)41-22-21-37(2)20-18-28-8-4-5-19-35-28;;/h4-17,19H,18,20-23H2,1-3H3;2*1H
